US07053089B2
[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidin-4-yl-amine
EXAMPLE 93 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2,4-dichloro-pyrimidine followed by hydrogenation in ethanol-triethylamine over 5% palladium on carbon, 1 atm of hydrogen: MS (m+1)=361.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol triethylamine | C(C)O.C(C)N(CC)CC
catalyst | palladium on carbon | [Pd] | Pd
product | [1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidin-4-yl-amine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=NC=C1 | C18H24N4O2S
